US06194454B1
3-Isopropyl-4-methoxybenzene boronic acid
To a cooled (−78° C.), stirred solution of 3-isopropyl-4-methoxybromobenzene (2.5 g) was added n-butyllithium (4.8 mL of a 2.5 M solution in hexanes) dropwise. After 30 min, triisopropylborate (5 mL) was added and the reaction solution was allowed to warm to RT and then stirred for 18 h. The reaction solution was concentrated in vacuo, saturated aqueous sodium bicarbonate was added and the resulting mixture was stirred for 30 min. The reaction was extracted with ethyl acetate. The organic layer was washed with water then brine, dried over sodium sulfate, and concentrated in vacuo to afford a solid, which was triturated with hexanes to afford the title compound as colorless plates (1.1 g).

reactant | 3-isopropyl-4-methoxybromobenzene | 2.5 g | C(C)(C)C=1C=C(C=CC1OC)Br | C10H13BrO
reactant | n-butyllithium | C(CCC)[Li]
reactant | triisopropylborate | 5 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
product | 3-Isopropyl-4-methoxybenzene boronic acid | C(C)(C)C=1C=C(C=CC1OC)B(O)O | C10H15BO3
